US07399759B2
2-(4-Pyridyl)-4H-1,3-benzothiazine-4-one N-oxide
2-(4-pyridyl)-4H-1,3-benzothiazine-4-one (1.00 g, 4.1 mmol) was dissolved in chloroform (20 ml). To the mixture was added 3-chloroperbenzoic acid (ca. 77%, 0.92 g, 4.1 mmol). The reaction mixture was stirred at room temperature for 24 hr and concentrated under reduced pressure. The residue was subjected to a silica gel column chromatography and eluted with ethyl acetate-methanol (20:1, v/v) and recrystallized from diisopropylether-methanol to give the titled compound (0.18 g, 16%) as crystals.

reactant | 2-(4-pyridyl)-4H-1,3-benzothiazine-4-one | 4.1 mmol, 1.00 g | N1=CC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H8N2OS
reactant | 3-chloroperbenzoic acid | 4.1 mmol, 0.92 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Pyridyl)-4H-1,3-benzothiazine-4-one N-oxide | 0.18 g, 16% | N1=CC=C(C=C1)C=1SC2=C(C([N+]1[O-])=O)C=CC=C2 | C13H8N2O2S
